US09233981B1
Step 4. Synthesis of (4R,4aR,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4-methyl-4,4a,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-6-yl trifluoromethanesulfonate (P6)
A mixture of N-[(4R,4aR,8aS)-8a-(2,4-difluorophenyl)-4-methyl-6-oxo-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C24) [1.36 g, 3.27 mmol; azeotroped with toluene (2×10 mL)] and N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N-[(trifluoromethyl) sulfonyl]methanesulfonamide (Comins' reagent, 96%, 5.34 g, 13.1 mmol) in tetrahydrofuran (53 mL) was cooled to −78° C. Potassium bis(trimethylsilyl)amide (0.5 M solution in toluene, 32.7 mL, 16.3 mmol) was added drop-wise over 20 minutes, and the reaction mixture was stirred at −78° C. for 1.1 hours; after addition of aqueous sodium bicarbonate solution (30 mL), it was allowed to warm to room temperature and extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Silica gel chromatography (Gradient: 0% to 50% ethyl acetate in heptane) afforded the product as a pale yellow solid. Yield: 1.55 g, 2.83 mmol, 87%. LCMS m/z 549.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 7.97-7.99 (m, 2H), 7.56-7.60 (m, 1H), 7.47-7.52 (m, 2H), 7.35 (td, J=9.0, 6.5 Hz, 1H), 6.87-6.97 (m, 2H), 4.83 (d, J=10.6 Hz, 1H), 4.77 (d, J=1.8 Hz, 1H), 4.18 (d, J=10.6 Hz, 1H), 3.43 (br d, J=2.0 Hz, 1H), 3.12 (qd, J=7.0, 2.4 Hz, 1H), 1.28 (d, J=7.0 Hz, 3H).

reactant | N-[(4R,4aR,8aS)-8a-(2,4-difluorophenyl)-4-methyl-6-oxo-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 3.27 mmol, 10 mL, 1.36 g | FC1=C(C=CC(=C1)F)[C@@]12N=C(S[C@@H]([C@@H]1CC(OC2)=O)C)NC(C2=CC=CC=C2)=O | C21H18F2N2O3S
reactant | N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N-[(trifluoromethyl) sulfonyl]methanesulfonamide | 13.1 mmol, 5.34 g | ClC=1C=CC(=NC1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H3ClF6N2O4S2
reactant | Potassium bis(trimethylsilyl)amide | 16.3 mmol, 0.5 M, 32.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 53 mL | O1CCCC1 | C4H8O
product | (4R,4aR,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4-methyl-4,4a,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-6-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C[C@@H]2[C@@](N=C(S[C@@H]2C)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F)(F)F | C22H17F5N2O5S2
